US07074819B2
step 4) Synthesis of 4-[9-(t-butyldimethylsilyloxy)nonyl]-3-(4-hydoxyphenyl)-7-methoxymethyloxy-3-methylchroman
The title compound was prepared from 3-(4-benzyloxy]phenyl)-4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethyloxy-3-methylchroman according to the same method for the synthesis of 4-[9-(t-butyldimethylsilyloxy)-1-nonyl]-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman described in International Patent Appln. No. PCT/KR97/00265.

reactant | 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethyloxy-3-methylchroman | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1C(COC2=CC(=CC=C12)OCOC)C | C27H44O4Si
reactant | 4-[9-(t-butyldimethylsilyloxy)-1-nonyl]-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C35H56O6Si
product | 4-[9-(t-butyldimethylsilyloxy)nonyl]-3-(4-hydoxyphenyl)-7-methoxymethyloxy-3-methylchroman | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)O | C33H52O5Si
